US05736534
4-(6-Benzyloxy-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 80% yield from 6-benzyloxy-indoline (1.1 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. The HCl salt was generated from the purified free base according to the procedure given in Example 2. (M.P. 249°-250° C.(dec); LC-MS: 414 (MH+); anal. RP18-HPLC RT: 5.01 min.).

reactant | 6-benzyloxy-indoline | 1.1 eq. | C(C1=CC=CC=C1)OC1=CC=C2CCNC2=C1 | C15H15NO
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | HCl | Cl | ClH
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Benzyloxy-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride | 80% yield | Cl.C(C1=CC=CC=C1)OC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C25H23N3O3.ClH/c1-29-23-13-20-21(14-24(23)30-2)26-16-27-25(20)28-11-10-18-8-9-19(12-22(18)28)31-15-17-6-4-3-5-7-17;/h3-9,12-14,16H,10-11,15H2,1-2H3;1H
